Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pseudomonas PNA, adenocarcinoma of the lung
 
Major Surgical or Invasive Procedure:
Chest tube placement right ___, pigtail placement left 
___
 
History of Present Illness:
___ male smoker w/ PMH HTN, HL who was admitted to ___ 
___ on ___ after presenting with a cough and 
SOB, referred by his PCP for ongoing pulmonary symptoms, 
initially presumed to be a PNA which was initially treated in 
the outpatient setting (abx unknown). Patient with yellow/brown 
sputum. On admission, CXR showed mass like consolidation in RUL 
and right pleural effusion. CT chest showed a right pleural 
effusion, right lobulated upper lung mass with smaller adjacent 
satellite nodule, extensive lymphadenopathy, right chest wall 
mass, pericardial effusion, and the question of a nonspecific 
liver lesion and bilateral adrenal gland fullness. He was 
treated for a post-obstructive pneumonia with levoquin with 
clinical improvement. During admission an ultrasound guided 
thoracentesis on ___ and biopsy of chest wall mass was 
performed with ~ 800cc serous fluid removed, cytology showing 
adenocarcinoma. Patient was also found to have a pericardial 
effusion s/p pericardiocentesis (500cc of very dark fluid with 
improvement in hemodynamics and symptoms, cytology additionally 
returned with adenocarcinoma) performed on ___ and 
subsequently underwent a pericardial window, reportedly on 
___. Echo on ___ showed EF 60-65%. Pericardiocentesis was 
complicated by atrial fibrillation for which he was started on 
diltiazem. Sputum culture on ___ grew pseudomonas, only 
sensitive to Amikacin and so he was started on Amikacin and 
Vancomycin (first doses today, ___ around 1pm). Patient was 
previously on Hi flow oxygen suplpementation (satting 93%), but 
on transfer was on 70%FM, reportedly satting well.  
Of note he is a 1ppd smoker x ___ years, and quit ___ years ago. 
Patient and wife are aware of the diagnosis of adenocarcinoma. 
He is also noted to have new onset anasarca, which his wife 
states developed only 5 days ago. Access: Right IJ TLC placed in 
OSH unit.  
 
On transfer, vitals were: 98.1 110/50 80 ___, 96% on 
facemask. ABG on hi flow 100% was 7.48/32/65/___/94% FiO2 60%. 
WBC 13.5 (from ___ yesterday), hct 36.7, 197, Na 142, K 3.8, Cl 
108, CO2 24, BUN 45, Cr 1.29, Ca 8.7.  
On arrival to the MICU, patient denies pain or pulmonary 
compliants when resting still with facemask on. Gets short of 
breath with rhonchorous cough when talking.  

 
Past Medical History:
-adenocarcimona of the lung, metastatic to at least pericardium 
causing pericardial effusion s/p pericardial window, discharged 
to inpatient hospice
-malignant pleural effusions s/p thoras and pleurex catheter on 
right
-saccharomyces cerevisiae infection of pericardium
HTN  
HL  
? type 2 diabetes  
rheumatic aortic stenosis  
h/o bronchitis  
insomnia  
lower extremity edema  
 
Social History:
___
Family History:
No history of pulmonary disease in family 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals- T: 97.9 BP: 108/55 P: 97 R: 18 O2: 95% on facemask  
___: Sleeping on entering the room but awakens easily and 
alert and oriented. Speaking short sentences which induced cough 
with upper airway sounds  
HEENT: PERRL, sclera anicteric, dry MM, oropharynx clear, 
redundant skin  
NECK: supple, JVP not appreciably elevated, no LAD. R IJ in 
place without erythema or tenderness  
LUNGS: rhonchorous on left with minimal wheezing and decreased 
breath sounds on right with improved air movement in mid lung 
field. Chest wall with mass palpable under right axilla  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops appreciated though lung sounds make good exam difficult. 
Bandage over anterior chest wall c/d/i.  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, ___ pulses, no clubbing, cyanosis. 
anasarca thoughout  
SKIN: Stage 2 ulcer on buttocks, old appearing ecchymoses 
peripherally  
NEURO: alert and oriented, CN ___ grossly intact, moving all 
extremities against gravity, sensation intact throughout. 
Reflexes not tested. Gait not tested.  

Discharge Exam:
Tmax: 36.9 °C (98.5 °F), Tcurrent: 36.6 °C (97.8 °F), HR: 89 (77 
- 91) bpm,
BP: 135/60(71) {85/43(56) - 135/94(98)} mmHg, RR: 22 (11 - 27) 
insp/min, SpO2: 95% on 6L N, Heart rhythm: SR (Sinus Rhythm), 
Height: 64 Inch
___: awake, alert and appropriate
HEENT: EOMI, sclera anicteric, MMM, oropharynx clear
NECK: supple, JVP not appreciably elevated, no LAD. Former RIJ 
site without hematoma or infection
LUNGS: rhonchorous breath sounds bilaterally. Right axilla/chest 
wall with soft tissue mass. 
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops appreciated
ABD: soft, non-tender, non-distended, bowel sounds present 
EXT: upper>lower edema 1+, L PICC in place
GU: foley in place 
SKIN:  Stage 2 ulcer on buttocks, old appearing ecchymoses 
peripherally
NEURO: alert and oriented, CN ___ grossly intact, moving all 
extremities with purpose.
 
Pertinent Results:
ADMISSION LABS:
=========================
___ 05:49PM BLOOD WBC-14.9* RBC-4.38* Hgb-12.8* Hct-40.9 
MCV-93 MCH-29.2 MCHC-31.3 RDW-14.4 Plt ___
___ 05:49PM BLOOD Neuts-89.8* Lymphs-3.7* Monos-6.0 Eos-0.3 
Baso-0.2
___ 05:49PM BLOOD ___ PTT-33.6 ___
___ 05:49PM BLOOD Glucose-115* UreaN-44* Creat-1.3* Na-141 
K-3.8 Cl-105 HCO3-23 AnGap-17
___ 05:49PM BLOOD ALT-43* AST-67* LD(LDH)-259* AlkPhos-68 
TotBili-0.6
___ 05:49PM BLOOD proBNP-5438*
___ 05:49PM BLOOD Albumin-2.8* Calcium-8.8 Phos-3.7 Mg-2.4

MICRO:
=========================
___ URINE URINE CULTURE-NEGATIVE
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ PLEURAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-PRELIMINARY INPATIENT 
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-
<10 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 
   RESPIRATORY CULTURE (Final ___: 
      RARE GROWTH Commensal Respiratory Flora. 
      YEAST.    SPARSE GROWTH. 
      GRAM NEGATIVE ROD(S).    RARE GROWTH.
___ PLEURAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-PRELIMINARY INPATIENT 
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-
GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 
   RESPIRATORY CULTURE (Final ___: 
      RARE GROWTH Commensal Respiratory Flora. 
      YEAST.    SPARSE GROWTH. 
   FUNGAL CULTURE (Preliminary): 
      YEAST. 
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY INPATIENT 
___ MRSA SCREEN MRSA SCREEN-NEGATIVE  
___ BLOOD CULTURE Blood Culture, 
Routine-NEGATIVE
___ BLOOD CULTURE Blood Culture, 
Routine-NEGATIVE 

CYTOLOGY:
=========================
___ Cytology PLEURAL FLUID PENDING

IMAGING:
=========================
From OSH
___ portable CXR on admission: WETREAD No definite 
pneumothorax. Multiple opacities project over the right upper 
and mid lung, likely representing known lung mass and possible 
chest wall mass; correlation with dedicated imaging recommended. 
Small to moderate right pleural effusion and small left pleural 
effusion with adjacent atelectasis. Right IJ with tip in the mid 
SVC. 

___ CT chest w/o contrast: 5.4x4.3x5.2 macro lobulated mass 
in right upper lung, extensive adenopathy, 12mm satellite lesion 
posteriorly, 3.6x2.0x6.0cm mass soft tissue in right lateral 
chest wall, 2.3x1.1 cm low attenuation mass in right lobe of 
liver. Mild fullness of adrenal glands.

___ TTE: EF 60-65%, normal LV thickness and wall motion. 
Normal atria and right ventricle, large pericardial effusion 
located near right ventricle.

From ___
___ bilateral upper and lower extremity US with doppler
NEGATIVE FOR DVT

___ TTE
Conclusions  
The right ventricular cavity is mildly dilated with focal 
hypokinesis of the apical free wall. with depressed free wall 
contractility. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No masses or 
vegetations are seen on the aortic valve, but cannot be fully 
excluded due to suboptimal image quality. The mitral valve 
leaflets are mildly thickened. No masses or vegetations are seen 
on the mitral valve, but cannot be fully excluded due to 
suboptimal image quality. Trivial mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Suboptimal image quality. Suboptimal image quality 
due to body habitus. Left ventricular systolic function is 
probably normal, a focal wall motion abnormality cannot be 
excluded. The right ventricle is not well seen - the mid to 
distal free wall of the right ventricle is hypokinetic. No 
echocardiographic evidence of endocarditis. If clinically 
indicated, a transesophageal echocardiogram may better assess 
for valvular vegetations.   

___ CXR: As compared to the previous radiograph, no relevant 
change is seen in appearance of the cardiac silhouette and of 
the right-sided pigtail catheter. Also, the right upper lobe 
mass with mediastinal lymph node enlargement is constant in 
appearance.  No new parenchymal opacities are noted.  Mild 
blunting of both the left and the right costophrenic sinus 
persist.  No pneumothorax. 

___ Video swallow: Gross aspiration of nectar thick liquids. 
Penetration with honey and pureed consistencies with risk for 
aspiration. 

___ RUQ US: 1. Sludge-filled gallbladder with a single 
shadowing stone and mildly thickened and edematous gallbladder 
wall. These findings are nonspecific, and if clinical concern 
remains for acute cholecystitis, a HIDA scan could be performed. 
2. Ill-defined hypoechoic areas in the left hepatic lobe are 
incompletely evaluated given the technical limitations of this 
examination, and could represent cysts although solid lesions 
are not excluded. 3. Septated right hepatic lobe cyst. 4. Mild 
perisplenic ascites. 

Last Set of Blood Work Prior to Transitioning to ___ Focused 
Care:
___ 03:17AM BLOOD WBC-20.9* RBC-4.59* Hgb-13.4* Hct-42.4 
MCV-92 MCH-29.3 MCHC-31.7 RDW-15.0 Plt ___
___ 02:39AM BLOOD ___
___ 03:17AM BLOOD Glucose-104* UreaN-72* Creat-2.5* Na-145 
K-5.1 Cl-108 HCO3-22 AnGap-20
___ 03:17AM BLOOD ALT-92* AST-145* AlkPhos-137* TotBili-0.5
___ 03:17AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.8*
 
Brief Hospital Course:
___ male smoker w/ PMH HTN, HL who was transferred from 
___ with new diagnosis metastatic 
adenocarcinoma of the lung, with lung, chest wall and 
pericardial involvement transferred for hypoxic respitory 
failure found to have highly resistant pseudomonal pneumonia, 
pericardial effusion growing saccharomyces cerevisiae, and 
anasarca.

___ Course:  Mr ___ began developing 
signs/symptoms consistent with a PNA beginning several weeks 
ago. The pt presented to his PCP who prescribed ___ course of PO 
abx (not sure which abx) completed prior to presentation to ___ 
on ___ w/ reports of persistent SOB/Cough (yellow/brown sputum 
production). On presentation to ___, a CXR was completed w/ 
evidence of a RUL mass vs. consolidation. A CT Chest w/ right 
lobulated lung mass w/ smaller adjacent satellite nodules, 
extensive LAD, a right chest wall mass and a pericardial 
effusion. Pt was started on Levofloxacin for a presumed 
post-obstructive PNA. On ___, a thoracentesis of R pleural 
effusion was completed (w/ removal of over 800cc fluid) - no 
microbiology was sent; cytology w/ evidence of adenocarcinoma. A 
pericardiocentesis was also completed w/ removal of 500cc of 
dark fluid; cytology also c/w adenocarcinoma. Pericardiocentesis 
procedure was c/b Afib w/ RVR controlled with Dilt. ECHO 
completed post-procedure w/ EF: 60-65%. A pericardial window was 
completed on ___, sample ultimately growing saccharomyces 
cerevisiae. Sputum culture on ___ w/ ___ w/ GNR, GPC, GPC in 
clusters); culture positive for Pseudomonas (MDR) sensitive to 
Amikacin/Collistan. Pt was started on Amikacin and Vancomycin - 
first dose: ___. He was ultimately transfered to ___ for 
respiratory failure requiring NIPPV. 

# Hypoxemic respiratory failure: Initially admitted to the MICU 
for NIPPV requirement thought to be multifactorial due to 
pseudomonal pneumonia, pulmonary edema, pleural effusions, and 
lung adenocarcinoma. Improved with NIPPV and treatment for each 
as below, as well as nebulizers, aggressive pulmonary toilet and 
chest ___. patient did not require intubation and was gradually 
weaned to 6L NC.

# MDR Pseduomonal pneumonia: Grew from OSH sputum culture on and 
thought to be post obstructive pneumonia caused by the lung 
cancer. MDR Pseudomonas sensitive to Amikacin/Collistan and 
Cefepime (MIC 8). Patient was treated with amikacin (day 1 = ___ 
to ___ and cefepime (day 1 = ___ to ___, with guidance from 
ID consult team. Bilateral pleural effusions were thought to be 
exudative malignant effusions more than parapneumonic. 
Unfortunately, patient experienced toxic effects of amikacin 
with worsening renal function that precluded his continued 
treatment with the antibiotic and MDR pseudomonas was resistant 
to other antibiotic options preventing alternative treatment 
options. Given this, his rising WBC, and his metastatic lung 
cancer, the patient and wife elected to shift goals of care to 
comfort focused care and ___ was discharged the following 
day to inpatient hospice with Care ___ 
___ House in ___, Phone ___, where he can be 
closer to home and where his dog can visit him.

# Metastatic Lung Adenocarcinoma: Newly diagnosed on 
presentation at OSH. Cytology positive in pleural effusions and 
pericardial fluid. RUQ US for elevated LFTs also suspicious for 
liver involvement. Heme/onc was consulted and recommended no 
further work up or treatment at this time given active 
infections.they states patient could be seen as an outpatient 
only if his clinical status stablizes and palliative treatment 
is still in line with his goals of care. Patient and wife coping 
with ___ from palliative care and social work. The above 
events eventually led to patient being DNR/DNI, comfort measures 
only. Bilateral pleural effusions thought to be malignant, had 
bilateral thoracensteses with right chest tube, left pigtail 
(both removed prior to discharge) by interventional pulmonology 
here at ___ with improvement in respiratory status (R>L). 
Effusions were maximally drained just prior to discharge to 
inpatient hospice on ___. Patient was written for dilaudid, 
zofran, and ativan, which he was not requiring in the days prior 
to discharge. His course is expected to be a difficult one going 
forward given his tenuous respiratory status.

# Pericardial effusion: S/p pericardiocentesis at OSH showing 
adenocarcinoma involvement as well as pericardial window. 
Cultures from OSH grew 4+ budding yeast which speciated to 
saccharomyces cerevisiae. Started Micafungin on ___ until ___ 
when goals of care shifted to comfort measures.

# Atrial Fibrillation: Developed s/p pericardial window. Well 
controlled on diltiazem 60mg Q6h. CHADS2 score 2, but 3 if 
anasarca due to CHF. Patient was not initiated on 
anticoagulation given numerous procedures over his hospital 
course and then ultimate change in goals of care.

# Anasarca: Possibly due to ___ or right sided CHF due to 
restrictive pericardial disease, an addition to poor nutritional 
status (ablumin 2.8). Patient was given ensures TID for 
nutrition. Elevated BNP and improvement with diuresis suggestive 
of dCHF. Bilateral upper and lower US neg for DVT. Patient was 
diuresed early in admission, but this was stopped when renal 
function worsened as a result of amikacin toxicity.

# HTN: Home antihypertensives were held during admission, 
patient was given only diltiazem for afib as above.  

# HL: Home statin was discontinued for elevated LFTs.

#  Stage II ulcers (X2) on sacrum: present on admission. 
Frequent turning, would consult obtatined, optimizing nutrition 
status with supplements. Low dose oxycodone for pain 
(hypotension with higher doses).

TRANSITIONAL ISSUES: 
- Patient failed video swallow with gross aspiration. Maintained 
on honey thickened liquids and regular diet for patient comfort 
and preference.
- Patient is being transferred to inpatient hospice closer to 
home with Care ___ House in 
___, Phone ___.
- If patient would like he may return in a week for pleurex 
placement for breathing comfort. Interventional Pulmonology (Dr. 
___ is aware and will call to schedule 
appointment with patient if this is within his wishes.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. valsartan-hydrochlorothiazide 160-25 mg oral daily 
2. Rosuvastatin Calcium 40 mg PO DAILY 
3. Niacin 100 mg PO BID 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. diflunisal 500 mg oral daily 
6. Valsartan 80 mg PO DAILY 
7. PredniSONE 20 mg PO DAILY 
8. Simvastatin 80 mg PO DAILY 
9. Spironolactone 100 mg PO 3X PER WEEK 
10. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
4. Diltiazem 60 mg PO Q8H 
5. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipation 
6. HYDROmorphone (Dilaudid) 0.25 mg IV Q3H:PRN pain 
7. Ipratropium Bromide Neb 1 NEB IH Q6H 
8. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezing 
9. Lorazepam 0.25 mg IV Q4H:PRN anxiety, agitation 
10. Ondansetron 4 mg IV Q8H:PRN nausea 
11. Senna 8.6 mg PO BID:PRN Constipation 
12. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Hypoxic respiratory distress
Secondary Diagnosis:
MDR Pseduomonal pneumonia
Metastatic Lung Adenocarcinoma
Pericardial effusion
Atrial Fibrillation
Anasarca, malnitrition
Diastolic Heart failure
Stage II ulcers (X2) on sacrum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were admitted because you were having 
trouble breathing that was due to a number of things. You were 
diagnosed with metastatic lung cancer (meaning it has spread to 
other parts of your body), fluid around your lungs which we were 
able to drain, and a pneumonia with a bacteria that was very 
difficult to treat. We tried to treat it with an anitbiotic 
called amikacin, however your body could not tolerate this 
medication and your kidneys began to fail. There were no other 
antibiotics to treat this resistent bacteria. We tried very hard 
to get your breathing well enough to get you home, but you are 
still requiring a lot of support for your breathing and so you 
will be transferred to an inpatient hospice care center near 
your home. We hope this will allow you to be with your family 
and dog more often.
 
Followup Instructions:
___